US06673818B2
To a solution of {[2,6-difluoro-4-(5-methyl-3-phenyl-isoxazol-4-yl)phenyl]thio}methyl acetate in methanol (30 mL) and dichloromethane (70 mL) was added magnesium monoperoxyphthalate hexahydrate (8.6 g 80%, 14 mmol). The slurry was heated and held at reflux for 4 hours, then poured into water and extracted with dichloromethane (1×150 mL, 3×75 mL). The combined extracts were washed with dilute sodium chloride twice, dried with magnesium sulfate, and concentrated. The residue was dissolved in dichloromethane (40 mL) and methanol (20 mL), magnesium monoperoxyphthalate hexahydrate (4.5 g, 7.3 mmol) was added, and the mixture heated and held at reflux for 5 hours. Additional magnesium monoperoxyphthalate hexahydrate was added and the mixture heated and held at reflux for 18 hours. The reaction mixture was poured into dilute ammonium chloride and extracted with dichloromethane (1×200 mL, 2×50 mL). The combined extracts were washed twice with dilute ammonium chloride, dried with magnesium sulfate, and concentrated. Purification by silica gel chromatography using 30% ethyl acetate in hexanes gave white solids, which were dissolved in dichloromethane, washed with dilute sodium bicarbonate, dried with magnesium sulfate, and concentrated to provide {[2,6-difluoro-4-(5-methyl-3-phenylisoxazol-4-yl)phenyl]sulfonyl}methyl acetate as a white solid (1.4 g, 54%). Recrystallization from ethyl acetate/hexanes gave an analytical sample of the product, MP 164.6-165.6° C. 1H NMR (CDCl3/400 MHz) 7.35-7.46 (m, 5H), 6.82-6.86 (m, 2H), 5.33 (s, 2H), 2.54 (s, 3H) 2.12 (s, 3H). HRMS m/z 408.0725 (M+H+, calcd 408.0717). Anal. Calcd for C19H15F2NO5S: C, 56.02; H, 3.71; N, 3.44; Found: C, 56.07; H, 3.61, N, 3.58.

reactant | {[2,6-difluoro-4-(5-methyl-3-phenyl-isoxazol-4-yl)phenyl]thio}methyl acetate | C(C)(=O)OCSC1=C(C=C(C=C1F)C=1C(=NOC1C)C1=CC=CC=C1)F | C19H15F2NO3S
reactant | magnesium monoperoxyphthalate hexahydrate | 14 mmol, 8.6 g | O.O.O.O.O.O.C(C=1C(C(=O)[O-])=CC=CC1)(=O)O[O-].[Mg+2]
reactant | water | O | H2O
reactant | magnesium monoperoxyphthalate hexahydrate | 7.3 mmol, 4.5 g | O.O.O.O.O.O.C(C=1C(C(=O)[O-])=CC=CC1)(=O)O[O-].[Mg+2]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 30 mL | CO | CH4O
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | {[2,6-difluoro-4-(5-methyl-3-phenylisoxazol-4-yl)phenyl]sulfonyl}methyl acetate | 1.4 g, 54% | C(C)(=O)OCS(=O)(=O)C1=C(C=C(C=C1F)C=1C(=NOC1C)C1=CC=CC=C1)F | C19H15F2NO5S
